US07700657B2
(f) 1-{3-[2-(3,4-Bis-hydroxymethylphenyl)ethyl]-phenyl}propan-1-one
6.4 g (18.7 mmol) of (4-{2-[3-(2-ethyl-[1,3]dioxolan-2-yl)phenyl]ethyl}2-hydroxymethyl-phenyl)methanol are dissolved in a mixture of 40 ml of water and 40 ml of acetone. 650 mg of paratoluene-sulfonic acid are added, and the medium is stirred for 5 hours. After the usual treatment, the desired product is pure without purification, and obtained in the form of colorless oil (m=5.57 g; Y=100%).

reactant | (4-{2-[3-(2-ethyl-[1,3]dioxolan-2-yl)phenyl]ethyl}2-hydroxymethyl-phenyl)methanol | 18.7 mmol, 6.4 g | C(C)C1(OCCO1)C=1C=C(C=CC1)CCC1=CC(=C(C=C1)CO)CO | C21H26O4
reactant | paratoluene-sulfonic acid | 650 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | 40 ml | O | H2O
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | 1-{3-[2-(3,4-Bis-hydroxymethylphenyl)ethyl]-phenyl}propan-1-one | OCC=1C=C(C=CC1CO)CCC=1C=C(C=CC1)C(CC)=O | C19H22O3
